US07790756B2
5-(3-amino-4-fluorophenoxy)picolinic acid (0.14 g, 0.56 mmol) was dissolved in THF (3 mL) and stirred at 0° C. for 5 min. 1M Borane (3.4 mL) solution was added dropwise to the reaction mixture at 0° C. over a period of 30 min. The ice bath was removed and stirring continued at RT for 7 hours. The reaction mixture was cooled in an ice bath and treated with 3M HCl (5 mL). The solution was heated for 1 h at 50° C. The solution was washed with EtOAc (2×) and the aqueous layer was cooled in an ice bath and neutralized with 3M NaOH. The solution was extracted with EtOAc (3×), the combined organic layers were washed with brine, dried (Na2SO4) and concentrated in vacuo to obtain (5-(3-amino-4-fluorophenoxy)pyridin-2-yl)methanol (0.13 g, 98% yield). 1H NMR (400 MHz, DMSO-d6) δ 8.24 (d, J=2.8 Hz, 1H), 7.46 (d, J=8.8 Hz, 1H), 7.40 (dd, J=2.8, 8.4 Hz, 1H), 6.99 (dd, J=8.8, 11.2 Hz, 1H), 6.40 (dd, J=2.8, 7.6 Hz, 1H), 6.15 (dt, J=3.2, 8.8 Hz, 1H), 5.40 (t, J=5.6 Hz, 1H), 5.33 (s, 2H), 4.54 (d, J=6.0 Hz, 2H); MS (ESI) m/z: 235.0 (M+H+).

reactant | 5-(3-amino-4-fluorophenoxy)picolinic acid | 0.56 mmol, 0.14 g | NC=1C=C(OC=2C=CC(=NC2)C(=O)O)C=CC1F | C12H9FN2O3
reactant | Borane | 1M, 3.4 mL | B | BH3
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (5-(3-amino-4-fluorophenoxy)pyridin-2-yl)methanol | 0.13 g, 98% yield | NC=1C=C(OC=2C=CC(=NC2)CO)C=CC1F | C12H11FN2O2
